US04301075
Analogously to Example 2, 126 g (1 l mol) of 2,3-dimethylmaleic anhydride and 61 g (1 mol) of ethanolamine are reacted to give 150 g of N(2-hydroxyethyl)-2,3-dimethylmaleimide (boiling point 110° C. under 13.3 Pa; yield 89% of theory). The N(2-hydroxyethyl)-2,3-dimethylmaleimide is mixed with 181.5 g (1.78 mols) of acetic anhydride and 3 drops of concentrated sulfuric acid and the mixture is refluxed for one hour in an oil bath heated to 160° C. The acetic acid formed and the acetic anhydride are then distilled off in vacuo. Fractionation of the residue under a high vacuum yields 179 g of N(2-acetoxyethyl)-2,3-dimethylmaleimide (boiling point 104° C./6.66 Pa; yield 95% of theory). The N(2-acetoxyethyl)-2,3-dimethylmaleimide is introduced dropwise, under nitrogen, in the course of 75 minutes into a glass column which is filled with Raschig rings and is heated to 550° C. The pyrolysis products are collected at the lower end of the glass column in a cooled receiver. The yellow oil obtained is taken up in diethyl ether and treated with aqueous sodium bicarbonate solution in order to remove the acetic acid. After drying the organic phase over sodium sulfate, the solvent is removed in vacuo and the product is distilled under a high vacuum. In addition to 39.3 g of unconverted starting material, 84.7 g of (N-vinyl)-2,3-dimethylmaleimide are obtained in the form of a yellowish oil; boiling point 58°-60° C./53.33 Pa; yield: 85% of theory, based on converted starting material.

reactant | 2,3-dimethylmaleic anhydride | 1 l, 126 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
reactant | ethanolamine | 1 mol, 61 g | C(O)CN | C2H7NO
product | N(2-hydroxyethyl)-2,3-dimethylmaleimide | 150 g, yield 89% | OCCN1C(C(=C(C1=O)C)C)=O | C8H11NO3
